US08536165B2
5-bromo-2-(2-(trifluoromethyl)phenyl)pyrimidine
Obtained (52% yield) following the procedure described in Intermediate 21, starting with 5-bromo-2-iodopyrimidine and 2-(trifluoromethyl)phenylboronic acid.

reactant | 5-bromo-2-iodopyrimidine | BrC=1C=NC(=NC1)I | C4H2BrIN2
reactant | 2-(trifluoromethyl)phenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
product | 5-bromo-2-(2-(trifluoromethyl)phenyl)pyrimidine | 52% yield | BrC=1C=NC(=NC1)C1=C(C=CC=C1)C(F)(F)F | C11H6BrF3N2
